US07666879B2
7-[2-(2-Morpholin-4-yl-propyl)-pyridin-4-yl]-imidazo[1,2-a]pyridine
Dissolve 1-(4-imidazo[1,2-a]pyridin-7-yl-pyridin-2-yl)-propan-2-one (3.9 g, 15.5 mmol) in methanol (400 mL) under nitrogen. Add morpholine hydrochloride (38.4 g, 20 equiv.) followed by 3 {acute over (Å)} Sieves (7.8 g, powdered and dried in a vacuum oven at 100° C. overnight). Stir five minutes then add sodium cyanoborohydride (1.0 M in THF, 28 mL, 1.8 equiv.) via syringe and stir at room temperature for 5 days. Filter to remove insoluble material, washing with methanol. Concentrate to dryness then make basic with 20% NaOH (aq) and extract with ethyl acetate. Wash organics with aqueous saturated sodium chloride then dry over MgSO4. Filter and concentrate then purify by silica gel (Ethyl Acetate→5% Methanol:DCM→10% Methanol:DCM→5% 2M NH3 in methanol:DCM→10% 2 M NH3 in Methanol:DCM) to give product as a tan solid (3.7 g, 74%). MS (ES), m/z 323 (M+1).

reactant | 1-(4-imidazo[1,2-a]pyridin-7-yl-pyridin-2-yl)-propan-2-one | 15.5 mmol, 3.9 g | N=1C=CN2C1C=C(C=C2)C2=CC(=NC=C2)CC(C)=O | C15H13N3O
reactant | morpholine hydrochloride | 38.4 g, 20 equiv. | Cl.N1CCOCC1
reactant | sodium cyanoborohydride | 1.0 M, 28 mL, 1.8 equiv. | C(#N)[BH3-].[Na+]
solvent | methanol | 400 mL | CO | CH4O
product | 7-[2-(2-Morpholin-4-yl-propyl)-pyridin-4-yl]-imidazo[1,2-a]pyridine | 3.7 g, 74% | N1(CCOCC1)C(CC1=NC=CC(=C1)C1=CC=2N(C=C1)C=CN2)C | C19H22N4O
